US06716850B2
This compound was prepared analogously to 2,4-difluoro-2-prop-ynyloxy-benzene but using 2-bromo-5-fluorphenol (15 g, 78 mmol) to give 1-bromo-4-fluoro-2-prop-2-ynyloxy-benzene 15.6 g (87%)

reactant | 2,4-difluoro-2-prop-ynyloxy-benzene | FC1(CC=CC(=C1)F)OC#CC | C9H8F2O
reactant | 2-bromo-5-fluorphenol | 78 mmol, 15 g | BrC1=C(C=C(C=C1)F)O | C6H4BrFO
product | 1-bromo-4-fluoro-2-prop-2-ynyloxy-benzene | 15.6 g, 87% | BrC1=C(C=C(C=C1)F)OCC#C | C9H6BrFO
